US05116863
Process E: 11-(3-Dimethylaminopropylidene)-2-(2-triphenylmethyloxyethyl)-6,11-dihydrodibenz[b,e]oxepin
In this process, 1.2 g of 11-(3-dimethylaminopropyl)-11-hydroxy-2-(2-triphenylmethyloxyethyl)-6,11-dihydrodibenz[b,e]oxepin is dissolved in 50 ml of pyridine. To the solution is dropwise added 0.8 g of phosphorusoxychloride under a nitrogen atmosphere and ice-cooling. After stirring the mixture at room temperature for one hour, the solvent is distilled away under reduced pressure. The residue is extracted with 100 ml of methylene chloride, and washed with saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution in order. After drying the mixture over anhydrous sodium sulfate, the solvent is distilled away under reduced pressure. The resultant residue is purified by column chromatography on silica gel (eluent: hexane:ethylacetate:triethylamine=10:10:1 ) to obtain 0.82 g of the desired product as a colorless oily matter.

reactant | phosphorusoxychloride | 0.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 11-(3-dimethylaminopropyl)-11-hydroxy-2-(2-triphenylmethyloxyethyl)-6,11-dihydrodibenz[b,e]oxepin | 1.2 g | CN(CCCC1(C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)O)C | C40H41NO3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 11-(3-Dimethylaminopropylidene)-2-(2-triphenylmethyloxyethyl)-6,11-dihydrodibenz[b,e]oxepin | 0.82 g | CN(CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCOC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C | C40H39NO2
